US06093732
N3,N6 -Bis(4-chlorobenzyl)-8-fluoro-4-hydroxy-3,6-quinolinedicarboxamide
To a flask containing 3-{[(4-chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinecarboxylic acid from Preparation No. 24 (0.11 g) and THF (3 mL) is added thionyl chloride (0.075 mL). The reaction mixture is stirred overnight then treated with one drop of DMF. After 4 hours, the reaction is concentrated under reduced pressure. The residue is triturated with toluene (2×) and dried in vacuo to afford a light yellow solid. The solid is dissolved in pyridine (2 mL), treated with p-chlorobenzylamine (0.04 mL), and a small amount of 4-dimethylaminopyridine is added. After stirring overinght, the reaction is concentrated under reduced pressure. The residue is triturated with toluene (3×) and dried in vacuo. The residue is adsorbed onto silica and chromatographed on silica eluting with 2% MeOH:CH2Cl2 to 6% MeOH:CH2Cl2. The product-containing fractions are evaporated to give a solid which is crystallized from methanol:toluene to afford 0.04 g of the title compound.

reactant | 3-{[(4-chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinecarboxylic acid | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C(=O)O)F)C=C1 | C18H12ClFN2O4
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | thionyl chloride | 0.075 mL | S(=O)(Cl)Cl | Cl2OS
reactant | p-chlorobenzylamine | 0.04 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N3,N6 -Bis(4-chlorobenzyl)-8-fluoro-4-hydroxy-3,6-quinolinedicarboxamide | 0.04 g | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C(=O)NCC2=CC=C(C=C2)Cl)F)C=C1 | C25H18Cl2FN3O3
